* Rhoform benchmark (a): 9V 555 LED blinker, ~1 Hz astable
* Deck: complete, self-contained, offline, deterministic (no vendor models).
* NE555 macromodel below is an ORIGINAL behavioral model authored for Rhoform
* (comparators as B-sources, B-source SR latch on a state cap, switch-model
* discharge transistor). Intended license: Apache-2.0 / CC0 (D4 core library seed).
*
* Fixture rules honored:
*   V3: supply is ramped (PWL 0->9V in 2 ms), measurements gated past a
*       2 s settle window (startup first-high phase is longer than steady state).
*   V2: period and on-time are each ONE .meas with TRIG/TARG on v(out);
*       frequency and duty are derived params.
*   V1: every .meas must yield a real number; a missed crossing is a failure.

*----------------------------------------------------------------------
* NE555_RHOFORM - original behavioral 555 macromodel
* Pin order matches DIP-8: GND TRIG OUT RST CONT THRES DISCH VCC
*----------------------------------------------------------------------
.subckt NE555_RHOFORM gnd trig out rst cont thres disch vcc

* Internal 5k/5k/5k divider; CONT pin rides the 2/3 tap (external bypass ok)
Rdiv1 vcc  cont  5k
Rdiv2 cont ref13 5k
Rdiv3 ref13 gnd  5k

* Trigger comparator: S=1 when V(trig) < 1/3 Vcc (tanh-smoothed, ~5 mV band)
Bset  s 0 V = 0.5*(1+tanh(400*(v(ref13)-v(trig))))
* Threshold comparator: Rth=1 when V(thres) > 2/3 Vcc
Bthr  rth 0 V = 0.5*(1+tanh(400*(v(thres)-v(cont))))
* RESET pin (active low, ~0.7 V threshold); OR'ed with threshold comparator
Brst  rrs 0 V = 0.5*(1+tanh(20*(0.7-v(rst))))
Bres  r 0 V = 1-(1-v(rth))*(1-v(rrs))

* SR latch: state cap q in [0,1]; set-dominant (real 555 TRIG overrides THRES);
* weak tanh positive-feedback term holds state when S=R=0.
* Node order gnd->q so positive expression current CHARGES the state cap
* (SPICE convention: current flows node1 -> node2 through the source).
Cq    q gnd 100p
Bq    gnd q I = 50u*v(s)*(1-v(q)) - 50u*v(r)*(1-v(s))*v(q)
+             + 10u*(0.5*(1+tanh(40*(v(q)-0.5))) - v(q))

* Totem-pole output: high ~ Vcc-1.7 (bipolar 555 Voh), low ~ 0.15 V sat.
* Softplus keeps the Voh clamp smooth so the supply ramp cannot strand Newton.
Bout  oint gnd V = v(q)*0.5*((v(vcc)-1.7)+sqrt((v(vcc)-1.7)^2+0.01)) + (1-v(q))*0.15
Rout  oint out 12
Cout  out gnd 10p

* Open-collector discharge transistor: ON when latch is low
Bqb   qb gnd V = 1-v(q)
Sdis  disch gnd qb gnd swdis
.model swdis sw(ron=18 roff=100meg vt=0.5 vh=0.2)

.ends NE555_RHOFORM

*----------------------------------------------------------------------
* Astable blinker: RA=100k, RB=680k, C=1u -> f=1.44/((RA+2RB)C)=0.986 Hz
* duty=(RA+RB)/(RA+2RB)=53.4% high
*----------------------------------------------------------------------
VCC  vcc 0 PWL(0 0 2m 9)                 ; V3: ramped 9 V supply
XU1  0 nct out vcc cont nct disch vcc NE555_RHOFORM
RA   vcc  disch 100k
RB   disch nct   680k
CT   nct  0     1u
CB   cont 0     10n                       ; CONT bypass (pin 5)
CBYP vcc  0     100n                      ; VCC bypass (pin 8) -- see design.md sec. 5
RL   out  nled  560                       ; LED ballast: (9-1.7-2.0)/560 ~ 9.5 mA
DLED nled nks   LEDRED
RLK  nled nks   10Meg                     ; convergence leak across LED
VSLED nks 0 DC 0                          ; 0 V ammeter for LED current
.model LEDRED D(IS=1e-16 N=2.4 RS=2)      ; red LED, Vf~2.0 V @ 10 mA

*----------------------------------------------------------------------
* Analysis and assertions
*----------------------------------------------------------------------
.options method=gear itl4=100 reltol=1e-4
.tran 100u 5

* Steady-state edge schedule (nominal): rises ~1.33,2.34,3.35,4.36 s;
* falls ~0.86,1.87,2.88,3.89 s. TD=2 lands inside a LOW phase, so after
* TD=2 the first RISE precedes the first FALL: t_on pairing is well-defined.
.meas tran t_period TRIG v(out) VAL=3.7 RISE=1 TD=2 TARG v(out) VAL=3.7 RISE=2 TD=2
.meas tran t_on     TRIG v(out) VAL=3.7 RISE=1 TD=2 TARG v(out) VAL=3.7 FALL=1 TD=2
.meas tran f_osc      PARAM='1/t_period'
.meas tran duty_pct   PARAM='100*t_on/t_period'
.meas tran i_led_on   MAX i(VSLED) FROM=2 TO=5
.meas tran v_out_high MAX v(out)   FROM=2 TO=5

.end
